US06583249B2
Chain transfer agent of structure (1) may also be obtained by reaction of a fluorine containing alcohol R2OH with an alkylating agent of structure R1—L. In one example, reaction of 1,1,1,3,3,3-hexafluoro-2-propanol with dimethyl sulfate in the presence of aqueous sodium hydroxide affords a partially fluorinated ether with the structure (CF3)2CHOCH3, as disclosed in U.S. Pat. No. 3,346,448.

reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | (CF3)2CHOCH3 | C(C(F)(F)F)(C(F)(F)F)OC | C4H4F6O
